US06225311B1
A mixture of 0.452 g (0.908 mmol) of tert-butyl (3S)-4-({4-[(7-hydroxy-2-heptynyl)oxy]phenyl}sulfonyl)-2,2-dimethyl-3-thiomorpholinecarboxylate, 2.6 mL (27 mmol) of acetic anhydride and 0.22 mL (2.7 mmol) of pyridine was stirred at room temperature for 6h and concentrated in vacuo. The residue was chromatographed on silica gel eluting with ethyl acetate:hexanes (1:5 ) to provide 0.476 g (97%) of tert-butyl (3S)4-[(4-{[7-(acetyloxy)2-heptynyl]oxy}phenyl)sulfonyl]-2,2-dimethyl-3-thiomorpholinecarboxylate as a colorless oil. Electrospray Mass Spec: 540.0 (M+H)+

reactant | tert-butyl (3S)-4-({4-[(7-hydroxy-2-heptynyl)oxy]phenyl}sulfonyl)-2,2-dimethyl-3-thiomorpholinecarboxylate | 0.908 mmol, 0.452 g | OCCCCC#CCOC1=CC=C(C=C1)S(=O)(=O)N1[C@H](C(SCC1)(C)C)C(=O)OC(C)(C)C | C24H35NO6S2
reactant | acetic anhydride | 27 mmol, 2.6 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 2.7 mmol, 0.22 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl (3S)4-[(4-{[7-(acetyloxy)2-heptynyl]oxy}phenyl)sulfonyl]-2,2-dimethyl-3-thiomorpholinecarboxylate | 0.476 g, 97% | C(C)(=O)OCCCCC#CCOC1=CC=C(C=C1)S(=O)(=O)N1[C@H](C(SCC1)(C)C)C(=O)OC(C)(C)C | C26H37NO7S2
